US07090968B2
Synthesis of Terpolymer of 2-methyladamantanylmethacrylate/methacrylonitrile/alpha-butyrolactone Methacrylate in Respective Molar Amounts of 40/30/30.
2-Methyladamantanyl methacrylate (14.21 g, 0.061 mol), methacrylonitrile (3.05 g, 0.045 mol), and alpha-butyrolactone methacrylate (7.74 g, 0.045 mol) were dissolved in 66 mL of tetrahydrofuran. The resulting colorless solution was deoxygenated by gently bubbling a stream of N2 through the stirring solution for 15 minutes, placed under N2, and heated to 90° C. (oil bath temperature). VAZO67 (0.58 g, 0.0030 mol) dissolved in 7 ml of tetrahydrofuran, was then added to the refluxing mixture over 10 minutes. The polymerization was then refluxed with stirring for 20 hours and cooled to room temperature. The polymer was isolated by precipitation into 800 mL of hexanes, filtered, dried, re-dissolved in 70 mL of tetrahydrofuran, precipitated into 800 mL of hexanes, filtered, washed well with hexanes, and dried in a vacuum oven at 40° C. for 24 hours. Yield 19.8 g (79% of theory). Composition of the title terpolymer was determined by quantitative C-13 NMR and was found to be within experimental error of the monomer feed ratio.

reactant | 2-Methyladamantanyl methacrylate | 0.061 mol, 14.21 g | C(C(=C)C)(=O)OC12C(C3CC(CC(C1)C3)C2)C | C15H22O2
reactant | methacrylonitrile | 0.045 mol, 3.05 g | C(C(=C)C)#N | C4H5N
reactant | alpha-butyrolactone methacrylate | 0.045 mol, 7.74 g | C(C(=C)C)(=O)O.C1(C(CC)O1)=O | 2C4H6O2
reactant | VAZO67 | 0.0030 mol, 0.58 g | CCC(C)(C#N)N=NC(C)(CC)C#N | C10H16N4
solvent | tetrahydrofuran | 66 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 2-methyladamantanylmethacrylate methacrylonitrile alpha-butyrolactone Methacrylate | CC1C2(CC3CC(CC1C3)C2)C=C(C(=O)[O-])C.C(C(=C)C)#N.C(C(=C)C)(=O)O.C1(C(CC)O1)=O | InChI=1S/C15H22O2.C4H5N.2C4H6O2/c1-9(14(16)17)6-15-7-11-3-12(8-15)5-13(4-11)10(15)2;1-4(2)3-5;1-2-3-4(5)6-3;1-3(2)4(5)6/h6,10-13H,3-5,7-8H2,1-2H3,(H,16,17);1H2,2H3;3H,2H2,1H3;1H2,2H3,(H,5,6)/p-1
